US07635746B2
2.7 g of magnesium was added to 200 ml of tetrahydrofuran and stirred until the magnesium was completely dissolved. To the solution was added dropwise a solution of bromohexadecane (31.1 g) in tetrahydrofuran (200 ml). Thereafter, the resulting solution was heated to 65° C. and reacted for 6 hours with stirring. The reaction solution was slowly added dropwise to a solution of cyanuric chloride (15 g) in tetrahydrofuran (250 ml), and reacted for 12 hours. After completion of the reaction, the resulting solution was evaporated under reduced pressure to obtain a concentrate and then the concentrate was purified by distillation in vacuo to yield pure 2,4-dichloro-6-hexadecyl-1,3,5-triazine.

reactant | magnesium | 2.7 g | [Mg] | Mg
reactant | bromohexadecane | 31.1 g | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | cyanuric chloride | 15 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,4-dichloro-6-hexadecyl-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)CCCCCCCCCCCCCCCC | C19H33Cl2N3
